US07479558B2
3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid
The solution of 4-chloro-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (1.70 g, 5.00 mmol) in DME (150 mL) and H2O (50 mL), in a pressure flask (500 mL, Chemglass), was added 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxa borolan-2-yl) benzoic acid (1.97 g, 7.50 mmol) and K2CO3 (4.15 g, 30.0 mmol). The resulting mixture was degassed with Argon for 5 minutes, mixed with Pd(PPh3)4 (0.232 g, 0.20 mmol) and heated with a preheated oil bath (160° C.) under vigorous stirring for 30 minutes. The reaction mixture was filtered through celite, concentrated under vaccum to remove DME. It was then mixed with EtOAc (200 mL) and AcOH (2.5 mL), and shaked. The layers were separated. The organic layer was collected, further washed with brine (70 mL), dried over Na2SO4, filtered, concentrated and purified via a flash chromatography (load column with DCM, mobile phase EtOAc/Hexane) to afford the title compound as a white solid 2.15 g (98%). LC-MS (ES) m/z 440 (M+H)+; 1H-NMR (CD3OD) δ 2.27 (s, 3 H), 2.31 (s, 3 H), 6.71 (d, J=9.6 Hz, 1 H), 7.28 (t, J=8.2 Hz, 2 H), 7.57 (d, J=8.4 Hz, 1 H), 7.64 (m, 2 H), 8.00 (d, J=1.6 Hz, 1 H), 8.14 (dd, J1=7.6 Hz, J2=1.6 Hz, 1 H).

reactant | 4-chloro-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 5.00 mmol, 1.70 g | ClC=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3OS
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxa borolan-2-yl) benzoic acid | 7.50 mmol, 1.97 g | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | K2CO3 | 30.0 mmol, 4.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 150 mL | COCCOC | C4H10O2
solvent | H2O | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.20 mmol, 0.232 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 2.15 g, 98% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C22H15F2N3O3S
